US08455475B2
tert-butyl 9-(2-(1H-imidazol-1-yl)ethoxy)-3-azaspiro[5.5]undecane-3-carboxylate
A solution of tert-butyl 9-(2-(methylsulfonyloxy)ethoxy)-3-azaspiro[5.5]undecane-3-carboxylate (2.68 mmol, 1.0 eq.) in DMF (10 ml) was added dropwise to a stirred mixture of NaH (8.04 mmol, 3.0 eq.) and imidazole (5.36 mmol, 2.0 eq.) in DMF (15 ml) at 0° C. and the resulting mixture was stirred at 25° C. for 16 h. The reaction mixture was diluted with ethyl acetate (300 ml) and washed with water (200 ml) and brine (200 ml). The organic layer was dried over sodium sulfate and concentrated under reduce pressure to give the crude product which was purified by silica gel column chromatography eluting with 2% MeOH in MC to afford the desired product as a yellow oil. Yield: 84%

reactant | tert-butyl 9-(2-(methylsulfonyloxy)ethoxy)-3-azaspiro[5.5]undecane-3-carboxylate | 2.68 mmol, 1.0 eq. | CS(=O)(=O)OCCOC1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C18H33NO6S
reactant | NaH | 8.04 mmol, 3.0 eq. | [H-].[Na+]
reactant | imidazole | 5.36 mmol, 2.0 eq. | N1C=NC=C1 | C3H4N2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | tert-butyl 9-(2-(1H-imidazol-1-yl)ethoxy)-3-azaspiro[5.5]undecane-3-carboxylate | Yield: 84% | N1(C=NC=C1)CCOC1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C20H33N3O3
